US08426604B2
C. 4-Methylamino-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of 4-[Methyl-(2,2,2-trifluoro-acetyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.26 g, 0.73 mmol) in methanol (3 mL) was added an aqueous 1.0M solution of potassium carbonate. The reaction mixture was stirred at room temperature for 5 hours and the solvent evaporated in vacuo to yield the title compound which was used directly without further purification.

reactant | 4-[Methyl-(2,2,2-trifluoro-acetyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.73 mmol, 0.26 g | COC(=O)C1N(CC(C1)N(C(C(F)(F)F)=O)C)C(=O)OC(C)(C)C | C14H21F3N2O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3 mL | CO | CH4O
product | 4-Methylamino-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(CC(C1)NC)C(=O)OC(C)(C)C | C12H22N2O4
